US09193732B2
2.1 1-(6-Nitropyridin-3-yl)piperazine hydrochloride (A2b)
A nitrogen-flushed, suitably equipped 22 L 4-neck round bottom flask is charged with 1392 g (8.78 mol, 1.0 eq.) of 5-chloro-2-nitropyridine (A2d), 1512 g (17.56 mol, 2.0 eq.) of piperazine (A2c) and 11,340 g (14,000 mL) of n-butanol. The resulting suspension is stirred and heated to 95° C. This temperature is maintained for at least 24 h or until the remaining starting material, A2d, is ≧2% (area normalization) as determined by HPLC analysis. The resulting slurry is cooled to 25° C. over 1 h. The solids are filtered through a polypropylene filter pad. The filter cake is washed twice with a total of 2267 g (2×1300 mL) of isopropyl acetate. The solids are dried at 60° C. for 16 h, to afford 1769 g (82.3%, uncorrected) of A2b as a yellow, crystalline solid, mp>230° C. (dec.).

reactant | 5-chloro-2-nitropyridine | 8.78 mol, 1392 g, 1.0 eq. | ClC=1C=CC(=NC1)[N+](=O)[O-] | C5H3ClN2O2
reactant | piperazine | 17.56 mol, 1512 g, 2.0 eq. | N1CCNCC1 | C4H10N2
solvent | n-butanol | 14,000 mL, 11,340 g | C(CCC)O | C4H10O
product | 1-(6-Nitropyridin-3-yl)piperazine hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=N1)N1CCNCC1 | InChI=1S/C9H12N4O2.ClH/c14-13(15)9-2-1-8(7-11-9)12-5-3-10-4-6-12;/h1-2,7,10H,3-6H2;1H
